US06509328B1
{3-[3-(3-Cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) (302 mg, 1.0 mmol) and 6-(3-cyano-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J3) (280 mg, 1.19 mmol) according to the general procedure K. Obtained as a light yellow solid (446 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 1.0 mmol, 302 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 6-(3-cyano-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one | 1.19 mmol, 280 mg | C(#N)C1=C(SC=C1)C1=CC(OC(O1)(C)C)=O | C11H9NO3S
product | {3-[3-(3-Cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 446 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1SC=CC1C#N)=O)=O | C25H22FN3O4S
